US08183241B2
In a 50 ml, three-necked flask fitted with a magnetic stirrer, under inert atmosphere, 4-phenyl-1-[(1-trityl-1H-imidazol-4-yl)methyl]pyrrolidin-2-one x44 (2 g, 4.1 mmol) is dissolved in CH3CN (20 ml) and MeI (283 μL, 4.5 mmol) is added. The mixture is stirred at room temperature and two additional portions of MeI (283 μl and 500 μl) are added after 40 h and 46 h. After stirring for 16 h at room temperature, the mixture is concentrated and dissolved in a 1/1 mixture of AcOH and water. After stirring at room temperature for 48 h, the mixture is filtered and evaporated to dryness (by azeotropic distillation with toluene). The residue is dissolved in a solution of HCl at pH 1 (25 ml) and extracted with CH2Cl2 (3×50 ml). The aqueous phase is brought at pH 10 by adding solid K2CO3 and extracted again with CH2Cl2 (3×50 ml). Combined organic phases are dried over MgSO4, filtered and concentrated to give 1 g of crude product which is purified by chromatography on silicagel (60 g of SiO2, CH2Cl2/EtOH/NH4OH: 94/5.4/0.6 (v/v/v)) to give 0.5 g of 1-[(1-methyl-1H-imidazol-5-yl)methyl]-4-phenylpyrrolidin-2-one. This free base is treated with a 3.6 M solution of HCl (5 ml), and the resulting solid is recrystallized in CH3CN to lead to 1-[(1-methyl-1H-imidazol-5-yl)methyl]-4-phenylpyrrolidin-2-one hydrochloride 119.

reactant | 4-phenyl-1-[(1-trityl-1H-imidazol-4-yl)methyl]pyrrolidin-2-one | C1(=CC=CC=C1)C1CC(N(C1)CC=1N=CN(C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C33H29N3O
reactant | MeI | 4.5 mmol, 283 μL | CI | CH3I
reactant | MeI | 283 μl | CI | CH3I
solvent | CH3CN | 20 ml | CC#N | C2H3N
product | 1-[(1-methyl-1H-imidazol-5-yl)methyl]-4-phenylpyrrolidin-2-one | 0.5 g | CN1C=NC=C1CN1C(CC(C1)C1=CC=CC=C1)=O | C15H17N3O
